US04031101
A 2M solution of phenyl lithium in benzene-ether (70 to 30), 100 ml., is added to 100 ml. of dry ether with stirring under a nitrogen atmosphere. The mixture is stirred and cooled to 0°-5° while a solution of 20 g. of cis-2,6-dimethyl-1-piperidinebutyric acid, methyl ester, in 100 ml. of dry ether is added slowly over a period of 15 minutes. After the addition is complete, the mixture is stirred an additional 2.5 hours at 0°-5°, then treated dropwise with 30 ml. of water. The organic layer is separated, washed with water and extracted with an excess of dilute acetic acid. The acid extract is washed with ether, basified with aqueous sodium hydroxide, then extracted with ether. The ether extract is washed with water, dried and evaporated to give cis-2,6-dimethyl-α,α-diphenyl-1-piperidinebutanol; m.p. 90°-91° C. after two crystallizations from petroleum ether.

reactant | phenyl lithium | C1(=CC=CC=C1)[Li]
reactant | ether | CCOCC | C4H10O
reactant | cis-2,6-dimethyl-1-piperidinebutyric acid, methyl ester | C[C@@H]1N([C@@H](CCC1)C)CCCC(=O)OC | C12H23NO2
solvent | water | O | H2O
product | cis-2,6-dimethyl-α,α-diphenyl-1-piperidinebutanol | C[C@@H]1N([C@@H](CCC1)C)CCCC(O)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H31NO
